US09447090B2
To a suspension of 300 mg of 8-(cyclohexylmethoxy)-N-[(1R)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide in 6 ml of ethanol was added 0.13 ml of hydrazine monohydrate, followed by stirring at 85° C. for 1 hour. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 200 mg of N-[(1R)-2-amino-1-phenylethyl]-8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | 8-(cyclohexylmethoxy)-N-[(1R)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 300 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H](CN2C(C1=CC=CC=C1C2=O)=O)C2=CC=CC=C2 | C32H32N4O4
reactant | hydrazine monohydrate | 0.13 ml | O.NN
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | N-[(1R)-2-amino-1-phenylethyl]-8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 200 mg | NC[C@@H](C1=CC=CC=C1)NC(=O)C1=C(N=C2N1C=CC=C2OCC2CCCCC2)C | C24H30N4O2
